US06531602B2
After dissolving 151 mg (1.0 mmol) of (2-pyridyl)trimethylsilane in 2 ml of dry diethyl ether, 0.67 ml (1.1 mmol) of a t-butyllithium/pentane solution (the concentration: 1.64 M) was added dropwise at an inner temperature of −78° C., whereby the reaction solution turned orange indicating the formation of [dimethyl(2-pyridyl)silyl]methyllithium. After that, the mixture was continued to be stirred at an inner temperature of −78° C. for 30 minutes, and then 130 mg (1.2 mmol) of chlorotrimethylsilane was added to the mixture, which was subsequently stirred at an inner temperature of −78° C. overnight. To the resulting reaction solution was added 5 ml of 1N hydrochloric acid, and the mixture was separated to the organic and aqueous layers. The organic layer was extracted with four portions of 5 ml of 1N hydrochloric acid. The resulting aqueous layers were combined together, and neutralized by the addition of sodium hydroxide pellets. The neutralized aqueous layer was extracted with three portions of 10 ml of diethyl ether. The resulting organic layers were combined together and dried over magnesium sulfate. The solvent was evaporated to give 208 mg of dimethyl(2-pyridyl)(trimethylsilylmethyl)silane (yield: 93%; NMR purity: 95% or more).

reactant | (2-pyridyl)trimethylsilane | 1.0 mmol, 151 mg | N1=C(C=CC=C1)[Si](C)(C)C | C8H13NSi
reactant | t-butyllithium pentane | 1.1 mmol, 0.67 ml | C(C)(C)(C)[Li].CCCCC
reactant | [dimethyl(2-pyridyl)silyl]methyllithium | C[Si](C1=NC=CC=C1)(C)C[Li]
reactant | chlorotrimethylsilane | 1.2 mmol, 130 mg | Cl[Si](C)(C)C | C3H9ClSi
reactant | hydrochloric acid | 1N, 5 ml | Cl | ClH
solvent | diethyl ether | 2 ml | C(C)OCC | C4H10O
product | dimethyl(2-pyridyl)(trimethylsilylmethyl)silane | 208 mg, yield: 93% | C[Si](C[Si](C)(C)C)(C1=NC=CC=C1)C | C11H21NSi2
